US05240935
A solution of diisopropylamine (6.8 mL, 48 mmol) in THF (100 mL) was cooled to -70° C. and n-BuLi (17.6 mL, 44 mmol, 2.5M hexane) was added to afford lithium diisopropylamide (LDA). A solution of ethyl 2,3,4,8-tetramethyl-2-azabicyclo[2.2.2]octane-6-carboxylate (9.6 g, 40 mmol) in THF (50 mL) was then added dropwise to the solution of LDA and the mixture was stirred for 2.5 hours. Methyl disulfide (4.3 mL, 48 mmol) was then added to the reaction mixture and the mixture was slowly warmed to room temperature and was stirred for 16 hours. The mixture was poured into saturated NH4Cl (200 mL), the organic layer was separated and the aqueous layer was extracted with ether (2×200 mL). The organic layers were combined, dried over anhydrous Na2SO4 and concentrated in vacuo. The residue was purified by medium pressure liquid chromatography (10-15% ethyl acetate/hexane) to afford 9.2 g (81%) of ethyl 2,3,4,8-tetramethyl-6-(methylthio)-2-azabicyclo[2.2.2]octane-6-carboxylate. The product was dissolved in ether and treated with ethereal HCl to afford 6.5 g of the hydrochloride salt as a white powder, m.p. 143°-145° C. when recrystallized from ethyl acetate.

reactant | ethyl 2,3,4,8-tetramethyl-2-azabicyclo[2.2.2]octane-6-carboxylate | 40 mmol, 9.6 g | CN1C2C(CC(C1C)(C(C2)C)C)C(=O)OCC | C14H25NO2
reactant | LDA | C(C)(C)[N-]C(C)C.[Li+]
reactant | Methyl disulfide | 48 mmol, 4.3 mL | CSSC | C2H6S2
reactant | NH4Cl | 200 mL | [NH4+].[Cl-]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | ethyl 2,3,4,8-tetramethyl-6-(methylthio)-2-azabicyclo[2.2.2]octane-6-carboxylate | 9.2 g, 81% | CN1C2C(CC(C1C)(C(C2)C)C)(C(=O)OCC)SC | C15H27NO2S
